US03959322
13β-Ethyl-17β-(undec-10-enoyloxy)-gon-4-en-3-one
Add undec-10-enoyl chloride (2 g.) in benzene (6 cc.) to 13β-ethyl-17β-hydroxy-gon-4-en-3-one (2 g.) in pyridine (6 cc.) at -15°. Keep the mixture at -10° for 17 hours, add to water and extract with benzene. Wash, dryand evaporate the extracts and recrystallize the residue from ethanol to obtain the title compound, m.p. 87°-88°; ultraviolet absorption peak at 240 mμ (ε17,000); infrared absorption peaks at 5.79, 6.00, 6.20 μ.

reactant | undec-10-enoyl chloride | 2 g | C(CCCCCCCCC=C)(=O)Cl | C11H19ClO
reactant | 13β-ethyl-17β-hydroxy-gon-4-en-3-one | 2 g | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)O | C19H28O2
reactant | water | O | H2O
solvent | benzene | 6 cc | C1=CC=CC=C1 | C6H6
solvent | pyridine | 6 cc | N1=CC=CC=C1 | C5H5N
product | 13β-Ethyl-17β-(undec-10-enoyloxy)-gon-4-en-3-one | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)OC(CCCCCCCCC=C)=O | C30H46O3
